US08623862B2
Step 1: Benzyl 3-(2-benzyloxyethoxy)pyrrolidine-1-carboxylate.
A solution of 1.29 g of benzyl 3-hydroxypyrrolidine-1-carboxylate in 80 ml of THF is cooled to 0° C., 0.245 g of 60% NaH in oil is added and then 1.26 g of [(2-bromoethoxy)methyl]benzene and 0.108 g of tetrabutylammonium iodide and it is heated at 80° C. for 3 hours. 0.28 g of NaH and 0.40 g of [(2-bromoethoxy)methyl]benzene are added and it is heated at 80° C. for 2 hours. The reaction mixture is concentrated under vacuum, the residue is extracted with DCM, the organic phase is washed with 0.1M HCl solution, with a saturated solution of NaHCO3, it is dried and the solvent is evaporated under vacuum. The product thus obtained is purified by preparative HPLC and 0.46 g of the expected compound is obtained.

reactant | benzyl 3-hydroxypyrrolidine-1-carboxylate | 1.29 g | OC1CN(CC1)C(=O)OCC1=CC=CC=C1 | C12H15NO3
reactant | NaH | 0.245 g | [H-].[Na+]
reactant | [(2-bromoethoxy)methyl]benzene | 1.26 g | BrCCOCC1=CC=CC=C1 | C9H11BrO
reactant | NaH | 0.28 g | [H-].[Na+]
reactant | [(2-bromoethoxy)methyl]benzene | 0.40 g | BrCCOCC1=CC=CC=C1 | C9H11BrO
solvent | THF | 80 ml | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 0.108 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | Benzyl 3-(2-benzyloxyethoxy)pyrrolidine-1-carboxylate | 0.46 g | C(C1=CC=CC=C1)OCCOC1CN(CC1)C(=O)OCC1=CC=CC=C1 | C21H25NO4
